US04117143
5-(Ethoxycarbonyloxy)-3-methyl-1-(β-phenoxyethyl)-pyrazole
0.1 mol (21.8 g) of 3-methyl-1-(β-phenoxyethyl)-5-pyrazolone was boiled with 10 mols of pyrocarbonic acid diethyl ester for 2 hours. The oily residue obtained after concentrating the reaction solution was distilled, using an oil pump. The oily distillate became crystalline on trituration with methanol. It was possible to recrystallize it from a little ether.

reactant | 3-methyl-1-(β-phenoxyethyl)-5-pyrazolone | 0.1 mol, 21.8 g | CC=1NN(C(C1)=O)CCOC1=CC=CC=C1 | C12H14N2O2
reactant | pyrocarbonic acid diethyl ester | 10 mols | C(C)OC(=O)OC(=O)OCC | C6H10O5
product | 5-(Ethoxycarbonyloxy)-3-methyl-1-(β-phenoxyethyl)-pyrazole | C(C)OC(=O)OC1=CC(=NN1CCOC1=CC=CC=C1)C | C15H18N2O4
